US04654343
2,2-Dimethyl-N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]-propanamide
To solution of 8.0 g of 3-methyl-6-[3-(amino)phenyl]-1,2,4-triazolo[4,3-b]pyridazine in 1.5 liters of dichloromethane was added 4.6 ml of trimethylacetyl chloride and 6.8 ml of diisopropylethylamine. The mixture was stirred for 3 hours and then poured into 200 ml of aqueous saturated sodium bicarbonate. The organic layer was separated, dried, and the solvent was removed in vacuo. The residue was recrystallized from dichloromethane-hexane to give 9.2 g of white crystals, mp 256°-258° C.

reactant | 3-methyl-6-[3-(amino)phenyl]-1,2,4-triazolo[4,3-b]pyridazine | 8.0 g | CC1=NN=C2N1N=C(C=C2)C2=CC(=CC=C2)N | C12H11N5
reactant | trimethylacetyl chloride | 4.6 ml | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | diisopropylethylamine | 6.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1.5 liters | ClCCl | CH2Cl2
product | 2,2-Dimethyl-N-[3-(3-methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]-propanamide | 9.2 g | CC(C(=O)NC1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)C)(C)C | C17H19N5O
